US07855292B2
E. 2-(2-Amino-4,5-dichloro-benzoylamino)-3-phenyl-propionic acid methyl ester
3,4-Dichloroisatoic anhydride (147 mg, 0.634 mmol) was dissolved in DMF (2 mL). (L)-Phenylalanine methyl ester hydrochloride (150 mg, 0.697 mmol) and DMAP (85 mg, 0.697 mmol) were added and the mixture was stirred overnight at rt. The mixture was quenched with water and extracted with EtOAc (3×). The combined organic layers were washed with water, dried (MgSO4), filtered and concentrated to provide the crude product. The crude solid was purified by flash chromatography (hexanes/EtOAc) to provide the desired product as a white solid (150 mg, 68%). 1H NMR (400 MHz, CDCl3): 7.27-7.21 (m, 5H), 7.07-7.05 (m, 2H), 6.30 (d, J=7.2, 1H), 5.44 (br s, 2H), 4.95-4.90 (m, 1H), 3.71 (s, 3H), 3.22-3.09 (m, 2H).

reactant | 3,4-Dichloroisatoic anhydride | 0.634 mmol, 147 mg | ClC1=C2C(C(=O)OC(N2)=O)=CC=C1Cl | C8H3Cl2NO3
reactant | (L)-Phenylalanine methyl ester hydrochloride | 0.697 mmol, 150 mg | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.697 mmol, 85 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(2-Amino-4,5-dichloro-benzoylamino)-3-phenyl-propionic acid methyl ester | 150 mg, 68% | COC(C(CC1=CC=CC=C1)NC(C1=C(C=C(C(=C1)Cl)Cl)N)=O)=O | C17H16Cl2N2O3
